US05703050
d) Ethyl (3-(4-(ethoxyiminomethyl)benzyl)-3-benzyloxyureido)acetate
2.99 g (8.14 mmol) of ethyl (3-(4-cyanobenzyl)-3-benzyloxyureido)acetate are dissolved in 250 ml of ethanol and cooled to -30° C. Dry HCl gas is introduced into the solution. After 24 h, excess HCl gas is driven out by nitrogen and the solvent is removed in vacuo. The residue crystallizes from ethyl acetate/ether.

reactant | ethyl (3-(4-cyanobenzyl)-3-benzyloxyureido)acetate | 8.14 mmol, 2.99 g | C(#N)C1=CC=C(CN(C(NCC(=O)OCC)=O)OCC2=CC=CC=C2)C=C1 | C20H21N3O4
reactant | HCl | Cl | ClH
reactant | ethanol | 250 ml | C(C)O | C2H6O
product | Ethyl (3-(4-(ethoxyiminomethyl)benzyl)-3-benzyloxyureido)acetate | C(C)ON=CC1=CC=C(CN(C(NCC(=O)OCC)=O)OCC2=CC=CC=C2)C=C1 | C22H27N3O5
